US04808620
A solution of 45.2 g of 4-(2-chloronicotinoyl)2,6-di-tertiary butylphenol and 21 g of 2-hydrazinoethanol in 230 ml of pyridine is refluxed under stirring for 18 hours. After completion of the reaction, the pyridine is concentrated and 140 ml of ethanol and 70 ml of water are added to the residue. The mixture is warmed to dissolve and then cooled to 0° C. The precipitated crystals are collected by filtration, recrystallized from 70% dioxane and then dried to give 40 g of 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1-(2-hydroxyethyl)-1H-pyrazolo[3,4-b]pyridine, melting at 135°-137° C.

reactant | 4-(2-chloronicotinoyl)2,6-di-tertiary butylphenol | 45.2 g | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=CC=N1 | C20H24ClNO2
reactant | 2-hydrazinoethanol | 21 g | N(N)CCO | C2H8N2O
solvent | pyridine | 230 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3,5-di-tertiary butyl-4-hydroxyphenyl)-1-(2-hydroxyethyl)-1H-pyrazolo[3,4-b]pyridine | 40 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN(C2=NC=CC=C21)CCO | C22H29N3O2
